US04296260
3.55 g (0.01 mol) trichlorophloroglucinol triisopropylether in 100 ml isopropanol were mixed with 5 g sodium. Heating with reflux was continued until all sodium had been dissolved. This was followed by diluting with 100 ml water, neutralizing with hydrochloric acid of 15% by weight, taking up of the organic phase in ethyl ether, drawing off of the ethyl ether and distilling of the residue on a bulb tube (2-3 mbar, airbath temperature 130° to 150° C.). 2.47 g phloroglucinol triisopropylether were obtained, which corresponds to a yield of 98% of theoretical.

reactant | trichlorophloroglucinol triisopropylether | 0.01 mol, 3.55 g | C(C)(C)OC1=C(C(OC(C)C)=C(C(OC(C)C)=C1Cl)Cl)Cl | C15H21Cl3O3
reactant | sodium | 5 g | [Na] | Na
reactant | hydrochloric acid | Cl | ClH
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
solvent | water | 100 ml | O | H2O
solvent | ethyl ether | C(C)OCC | C4H10O
product | phloroglucinol triisopropylether | 2.47 g, yield of 98% | C(C)(C)OC1=CC(OC(C)C)=CC(OC(C)C)=C1 | C15H24O3
